US06414148B1
Diethyl azodicarboxylate (472 μl, 3 mmol) was added dropwise to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (319.5 mg, 1 mmol), (prepared as described for the staring material in Example 2), triphenylphosphine (786 mg, 3 mmol) and 4-(2-hydroxyethyl)-3,5-dioxomorpholine (223 mg, 1.4 mmol) in methylene chloride (10 ml) under nitrogen. The mixture was stirred at ambient temperature for 4.5 hours and the insolubles were removed by filtration. The solvent was removed from the filtrate by evaporation and the residue was purified by column chromatography eluting with methylene chloride/acetonitrile/methanol (85/12.5/2.5). The purified product was dissolved in methylene chloride, 2M ethereal hydrogen chloride (1 ml) was added and the mixture was diluted with ether. The resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-7-(2-(3,5-dioxomorpholino)ethoxy)-6-methoxyquinazoline hydrochloride (97 mg, 20%).

reactant | Diethyl azodicarboxylate | 3 mmol, 472 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1 mmol, 319.5 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | triphenylphosphine | 3 mmol, 786 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethyl)-3,5-dioxomorpholine | 1.4 mmol, 223 mg | OCCN1C(COCC1=O)=O | C6H9NO4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-7-(2-(3,5-dioxomorpholino)ethoxy)-6-methoxyquinazoline hydrochloride | 97 mg, 20% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C(COCC2=O)=O)C=C1)F | InChI=1S/C21H18ClFN4O5.ClH/c1-30-17-7-13-16(8-18(17)32-5-4-27-19(28)9-31-10-20(27)29)24-11-25-21(13)26-15-3-2-12(22)6-14(15)23;/h2-3,6-8,11H,4-5,9-10H2,1H3,(H,24,25,26);1H
